US06576653B2
2,4-Dichloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid
2,4-Dichloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid ethyl ester was hydrolyzed according to Procedure E (reflux for 12 h before allowing to cool to room temperature; acidification with concentrated HCl; no purification).

reactant | 2,4-Dichloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N1)SC(=C2)Cl)Cl | C9H7Cl2NO2S
reactant | HCl | Cl | ClH
product | 2,4-Dichloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid | ClC1=CC2=C(NC(=C2Cl)C(=O)O)S1 | C7H3Cl2NO2S
